US07919628B2
To a solution of 0.95 g of 2-[(4-chloro-1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-butyric acid ethyl ester, 0.76 g 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester and 1.43 g triphenylphosphine in 30 mL of dry THF, 1.10 g of diisopropylazodicarboxylate were added. After 18 h at room temperature 1.43 g of triphenylphosphine and 1.10 g of diisopropylazodicarboxylate were added, and after 3 h again 1.43 g of triphenylphosphine and 1.10 g of diisopropylazodicarboxylate were added. After an additional 24 h the reaction was concentrated. After chromatography on silica (ethyl acetate/heptane) 1.17 g of 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester was obtained.

reactant | 2-[(4-chloro-1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-butyric acid ethyl ester | 0.95 g | C(C)OC(C(CC)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Cl)O)=O | C18H20ClNO4
reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 1.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.10 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.10 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.10 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C2=CC=CC=C12)Cl)C(NC(CC)(C)C(=O)OCC)=O | C29H39ClN2O6
